US06232310B1
b) N-(2-Cyanomethylsulfanyl-5-fluoro-phenyl)acetamid
Acetyl chloride (1.5 ml) in THF (10 ml) and subsequently pyridine (1.7 ml) in THF (10 ml) was added to a stirred solution of (2-amino-4-fluoro-phenylsulfanyl)acetonitrile (3.5 g) in THF (30 ml) at 0° C. The mixture was stirred at 0° C. for 50 min. Then the solvent was removed in vacuo and the residue was triturated with water (80 ml). The precipitate was filtered off and dried yielding 3.7 g (86%) of the title compound as yellow crystals; mp 113-115° C.; 1H-NMR (DMSO-d6), δ (ppm): 9.59 (s, 1H, NH), 7.73-7.57 (m, 2H, Ar—H), 7.19-7.05 (m, 1H, Ar—H), 4.05 (s, 2H, CH2), 2.12 (s, 3H, CH3). The title compound was used for the next step without further purification.

reactant | Acetyl chloride | 1.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 1.7 ml | N1=CC=CC=C1 | C5H5N
reactant | (2-amino-4-fluoro-phenylsulfanyl)acetonitrile | 3.5 g | NC1=C(C=CC(=C1)F)SCC#N | C8H7FN2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(2-Cyanomethylsulfanyl-5-fluoro-phenyl)acetamid | 3.7 g, 86% | C(#N)CSC1=C(C=C(C=C1)F)NC(C)=O | C10H9FN2OS
